US09428509B2
5-Chloro-1-isopropyl-4-nitro-1H-pyrazole
To a solution of 1-isopropyl-4-nitro-1H-pyrazole (1 equiv) in THF (0.65 M) was added dropwise a 1.0 M solution of lithium bis(trimethylsilyl)amide (2.6 equiv) in THF at −78° C. The reaction was stirred at −78° C. for 30 min before the addition of hexachloroethane (1.5 equiv) in THF (1.63 M). The reaction was stirred at −78° C. for 2.5 h then warmed to room temperature. The reaction was diluted with brine and extracted with ethyl acetate. The combined extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by silica gel chromatography (10-20% ethyl acetate in petroleum ether) to afford the desired product (84% yield) as a white solid. MS (ESI) m/z 190.1 [M+H]+.

reactant | 1-isopropyl-4-nitro-1H-pyrazole | 1 equiv | C(C)(C)N1N=CC(=C1)[N+](=O)[O-] | C6H9N3O2
reactant | lithium bis(trimethylsilyl)amide | 2.6 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hexachloroethane | 1.5 equiv | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 0.65 M | C1CCOC1 | C4H8O
solvent | THF | 1.63 M | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 5-Chloro-1-isopropyl-4-nitro-1H-pyrazole | 84% yield | ClC1=C(C=NN1C(C)C)[N+](=O)[O-] | C6H8ClN3O2
